US06180568B2
A chloroform solution (5 ml) of 0.33 g (2.1 mmols) of bromine was added dropwise to a solution of 0.50 g (2.1 mmols) of 1,2-dimethyl-4-(2-chlorophenyl)pyrazolidine-3,5-dione in 10 ml of chloroform with ice cooling. The obtained mixture was stirred with ice cooling for 30 minutes. The reaction mixture was washed successively with water, an aqueous solution of saturated sodium hydrogencarbonate and a saturated solution of sodium chloride and was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then the residue was washed with hexane, thereby obtaining 0.50 g (yield 75%) of 4-bromo-4-(2-chlorophenyl)-1,2-dimethylpyrazoline-3,5-dione in the form of yellow crystals.

reactant | bromine | 2.1 mmols, 0.33 g | BrBr | Br2
reactant | 1,2-dimethyl-4-(2-chlorophenyl)pyrazolidine-3,5-dione | 2.1 mmols, 0.50 g | CN1N(C(C(C1=O)C1=C(C=CC=C1)Cl)=O)C | C11H11ClN2O2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-4-(2-chlorophenyl)-1,2-dimethylpyrazoline-3,5-dione | 0.50 g, yield 75% | BrC1(C(N(N(C1=O)C)C)=O)C1=C(C=CC=C1)Cl | C11H10BrClN2O2
